US07417065B2
Piperidine (30 μL, 2.0 mmol), Pd2dba3 (2.7 mg, 0.003 mmol), potassium t-butoxide (59 mg, 0.53 mmol) and 1,3-bis-(2,6-diisopropylphenyl)-4,5-dihydroimidazol-2-ylidene HCl salt (2.6 mg, 0.006 mmol) are added sequentially to a solution of 3-{[2-(4-chloro-3-trifluoromethyl-phenyl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid tert-butyl ester (72 mg, 0.15 mmol) in 1,4-dioxane (0.8 mL). The mixture is irradiated in a microwave at 100° C. for 1 hour. The reaction is quenched with water and the mixture is concentrated in vacuo. The residue is dissolved in THF and aqueous 2N NaOH (4 mL, 1:1 v/v), and stirred at 60° C. for 3 hours. It is concentrated and purified with preparative LCMS to afford 20 mg of 3-{[2-(4-piperidin-1-yl-3-trifluoromethyl-phenyl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid, which is converted to HCl salt: 1H NMR (400 MHz, CD3OD) δ 8.15-8.00 (m, 4 H), 7.87 (s, 1 H), 7.63 (d, 1 H), 7.57 (d, 1 H), 4.48 (s, 2 H), 3.44 (t, 2 H), 3.03 (t, 4 H), 2.89 (t, 2 H), 1.90-1.80 (m, 4 H), 1.75-1.65 (m, 2 H); MS (ES) 463.4 (M+H+).

reactant | Piperidine | 2.0 mmol, 30 μL | N1CCCCC1 | C5H11N
reactant | potassium t-butoxide | 0.53 mmol, 59 mg | CC(C)([O-])C.[K+]
reactant | 3-{[2-(4-chloro-3-trifluoromethyl-phenyl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid tert-butyl ester | 0.15 mmol, 72 mg | C(C)(C)(C)OC(CCNCC1=CC2=C(SC(=C2)C2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1)=O | C23H23ClF3NO2S
solvent | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.003 mmol, 2.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-{[2-(4-piperidin-1-yl-3-trifluoromethyl-phenyl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid | 20 mg | N1(CCCCC1)C1=C(C=C(C=C1)C1=CC2=C(S1)C=CC(=C2)CNCCC(=O)O)C(F)(F)F | C24H25F3N2O2S
